US08648066B2
To a solution of 4-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-benzene-1,2-diamine (630 mg, 1.65 mmol, synthesized according to the method of example 2 step) in tetrahydrofuran (30 mL) was added 1,1′-thiocarbonyldiimidazole (587 mg, 3.29 mmol), and the reaction mixture was stirred at room temperature for 20 h. The mixture was concentrated and the residue crystallized from methanol to give 5-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-dihydro-2H-benzimidazole-2-thione (357 mg, 51% yield) as a brown solid. 1H NMR (400 MHz, DMSO-d6): 12.74 (s, 1H), 12.66 (s, 1H), 8.57 (d, 1H), 8.28 (d, 1H), 8.00 (d, 1H), 7.95 (m, 1H), 7.88 (d, 1H), 7.67 (m, 1H), 7.53 (dd, 1H), 7.49 (dd, 1H), 7.40 (s, 1H), 7.24 (d, 1H), 6.97 (m, 2H), 5.21 (s, 2H), 4.58 (m, 2H), 4.33 (m, 2H); MS (EI) for C25H20N4OS: 425 (MH+).

reactant | 4-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-benzene-1,2-diamine | N1=CC=C(C2=CC=CC=C12)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=CC2)N)N | C24H22N4O
reactant | 1,1′-thiocarbonyldiimidazole | 3.29 mmol, 587 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-dihydro-2H-benzimidazole-2-thione | 357 mg, 51% yield | N1=CC=C(C2=CC=CC=C12)N1CCOC2=C(C1)C=C(C=C2)C2=CC1=C(NC(N1)=S)C=C2 | C25H20N4OS
